US09334279B2
To a 2 dram vial equipped with a stir bar was added 2-(4,6-dichloropyridin-2-yl)thiazole (50 mg, 0.22 mmol), 4,4,5,5-tetramethyl-2-(4-(trifluoromethyl)phenyl)-1,3,2-dioxaborolane (59 mg, 0.22 mmol), Pd(dppf)Cl2 (8 mg, 11 μmol) and K3PO4 (344 mg, 1.62 mmol). The vial was capped with a septum screwcap and then placed under N2 atmosphere. To the vial was added THF (1 mL) and water (0.5 mL). The mixture was placed in a 60° C. heating block with stirring for 16 h. The reaction mixture was cooled to room temperatured; diluted with MeOH and then concentrated in vacuo. The resulting residue was dissolved/suspended in CH2Cl2 and then filtered through Celite. The filtrate was concentrated to afford a solid orange residue. This material was subjected to silica gel chromatography (hexanes:EtOAc, 100:0 to 95:5) to afford 2-(4-chloro-6-(4-(trifluoromethyl)phenyl)pyridin-2-yl)thiazole as a white solid (46 mg, 62%). 1H-NMR (400 MHz, CDCl3) 8.23 (d, J=1.8 Hz, 2H), 8.21 (s, 1H), 7.98 (d, J=3.3 Hz, 1H), 7.80 (d, J=1.5 Hz, 2H), 7.78 (s, 1H), 7.53 (d, J=3.3 Hz, 1H).

reactant | 2-(4,6-dichloropyridin-2-yl)thiazole | 0.22 mmol, 50 mg | ClC1=CC(=NC(=C1)Cl)C=1SC=CN1 | C8H4Cl2N2S
reactant | 4,4,5,5-tetramethyl-2-(4-(trifluoromethyl)phenyl)-1,3,2-dioxaborolane | 0.22 mmol, 59 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(F)(F)F)C | C13H16BF3O2
reactant | K3PO4 | 1.62 mmol, 344 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
catalyst | Pd(dppf)Cl2 | 11 μmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 0.5 mL | O | H2O
product | 2-(4-chloro-6-(4-(trifluoromethyl)phenyl)pyridin-2-yl)thiazole | 46 mg, 62% | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1SC=CN1 | C15H8ClF3N2S
